US05880126
10 ml of an aqueous 0.5N lithium hydroxide solution is added to a solution of 610 mg of 4-methoxymethyl-5-(4-nitrophenoxy)-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid (1-methyl-ethyl)-ester in 10 ml of methanol and 10 ml of tetrahydrofuran, and it is stirred for 24 hours at 50° C. Then, it is cooled to 20° C., acidified with 10% aqueous sulfuric acid and diluted with ethyl acetate. The solution that is obtained is washed twice with saturated sodium chloride solution dried on sodium sulfate and evaporated to dryness in a vacuum. The crude product that is obtained is recrystallized from ethanol/tetrahydrofuran, and 360 mg of 4-methoxymethyl-5-(4-nitrophenoxy)-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid is obtained as pale yellowish crystals with a melting point of 231°-232° C.

reactant | lithium hydroxide | 0.5N | [OH-].[Li+]
reactant | 4-methoxymethyl-5-(4-nitrophenoxy)-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid (1-methyl-ethyl)-ester | 610 mg | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=CC(=C23)OC2=CC=C(C=C2)[N+](=O)[O-])CC(=O)N(CCC2=CC=CC=C2)C)C=N1)COC | C34H34N4O7
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methoxymethyl-5-(4-nitrophenoxy)-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid | 360 mg | COCC1=C(N=CC=2N(C3=CC=CC(=C3C21)OC2=CC=C(C=C2)[N+](=O)[O-])CC(=O)N(CCC2=CC=CC=C2)C)C(=O)O | C31H28N4O7
